US05032675
Into a 300 mol round bottom flask were charged 10 g (44.8 mmol) of Z-L-Ala and 5.2 g (45.2 mmol) of N-hydroxysuccinimide, and the contents were dissolved in 100 ml of dioxane. Then, a solution of 9.2 g (44.7 mmol) of dicyclohexylcarbodiimide in 40 ml of dioxane was added dropwise, while the temperature of the reaction mixture wa maintained at 25° to 20° C. After the reaction had been allowed to proceed for 5 hours, precipitated dicyclohexylurea was filtered off. On the other hand, 7.2 g (50 mmol) of L-Gln was dissolved in 70 ml of aqueous 10% sodium hydrogencarbonate solution, and the resulting solution was cooled to 15° to 10° C. The dioxane solution prepared above was then added dropwise to the cooled solution, and the reaction was allowed to proceed for 5 hours. After the completion of the reaction, the pH of the reaction mixture was adjusted to 6.8 with lN HCl, and the dioxane was distilled off. After insoluble substances were filtered off, its pH was adjusted to 3 to 3.5 with 1N HCl. Crystals precipitated within 1 to 2 minutes, and the crystals were collected by filtration, washed with water and dried under reduced pressure to give 7 g (20 mmol) of Z-L-Ala-L-Gln. The pH of the above mother liquor was adjusted to 2.0 with lN HCl, so as to precipitate an additional 5 g of Z-L-Ala-L-Gln.

reactant | Z-L-Ala | 44.8 mmol, 10 g | N([C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C11H13NO4
reactant | N-hydroxysuccinimide | 45.2 mmol, 5.2 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 44.7 mmol, 9.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | L-Gln | 50 mmol, 7.2 g | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | HCl | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | N-carbobenzoxy-L-alanyl-L-glutamine | 20 mmol, 7 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O | C16H21N3O6
